US07692005B2
A 50 mL round bottom flask was dried in an oven overnight and cooled to room temperature under Ar(g). The flask was charged with fluoronitrobenzene (0.187 mL, 1.77 mmol), 2-Morpholin-4-yl-ethylamine (0.299 g, 2.30 mmol) and dioxane (9.0 mL). To the solution, diisopropyl ethyl amine (0.463 mL, 2.66 mmol) was added dropwise and allowed to stir at 105° C. for 48 h. The mixture was extracted with EtOAc (3×30 mL), and with brine (2×30 mL). The combined organic layers were then dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude mixture was then purified over silica (10% MeOH/90% CHCl3) affording (2-Morpholin-4-yl-ethyl)-(4-nitro-phenyl)-amine as a yellow solid (0.315 g, 1.26 mmol, 71% yield).

reactant | fluoronitrobenzene | 1.77 mmol, 0.187 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-Morpholin-4-yl-ethylamine | 2.30 mmol, 0.299 g | N1(CCOCC1)CCN | C6H14N2O
reactant | diisopropyl ethyl amine | 2.66 mmol, 0.463 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 9.0 mL | O1CCOCC1 | C4H8O2
product | (2-Morpholin-4-yl-ethyl)-(4-nitro-phenyl)-amine | 1.26 mmol, 0.315 g, 71% yield | N1(CCOCC1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O3
